US09079876B2
Step C. Preparation of Compound N-benzal-5-(methylthio)pyridine-2-amine (Compound 1C)
5-(methylthio)-2-aminopyridine (185 g) was dissolved in 2 L tetrahydrofuran, and then 500 mL titanate tetraisopropyl and benzaldehyde (155 g) were added. The reaction mixture was heated for reflux overnight, then cooled to room temperature, and 10 L water was added. The reaction mixture was extracted with ethyl acetate, the organic phase was washed with saturated NaCl solution, and dried with anhydrous sodium sulfate. After filtration, the residual solution was removed under reduced pressure to obtain the target compound (200 g).

reactant | 5-(methylthio)-2-aminopyridine | 185 g | CSC=1C=CC(=NC1)N | C6H8N2S
reactant | benzaldehyde | 155 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | 10 L | O | H2O
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
product | N-benzal-5-(methylthio)pyridine-2-amine | 200 g | C(C1=CC=CC=C1)=NC1=NC=C(C=C1)SC | C13H12N2S
